US04133809
4-(2-Methylaminoethyl)-1-methyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one
4 g of 4-[2-(N-benzyl-N-methylamino)ethyl]-1-methyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one in 100 ml of ethanol containing 0.4 g of Raney nickel is hydrogenated at 50 p.s.i. hydrogen pressure until 0.0085 moles of hydrogen is absorbed. The suspension is filtered and the filtrate is evaporated. The residue is triturated with a small amount of cold ether and the title compound is filtered off and dried.

reactant | 4-[2-(N-benzyl-N-methylamino)ethyl]-1-methyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one | 4 g | C(C1=CC=CC=C1)N(C)CCC1C=2N(C3=C(N(C1=O)C1=CC=CC=C1)C=C(C=C3)Cl)C(=NN2)C | C27H26ClN5O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.0085 moles | [H][H] | H2
solvent | ethanol | 100 ml, 0.4 g | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-(2-Methylaminoethyl)-1-methyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one | CNCCC1C=2N(C3=C(N(C1=O)C1=CC=CC=C1)C=C(C=C3)Cl)C(=NN2)C | C20H20ClN5O
